US05958945
Stage 2: 1-Methoxy-4-(N,N-dimethylaminosulfonyl)-2-naphthalenecarboxylic acid
A solution of methyl 1-methoxy-4-(N,N-dimethylaminosulfonyl)-2-napthalenecarboxylate (2.3 g; 7.13 mmol; 1 eq) is refluxed in 50% ethanol with 428 mg of NaOH (10.71 mmol; 1.5 eq) for 2 h. Next, the solvent is evaporated off under vacuum and the residue is taken up in water and extracted once with ethyl acetate. 1N HCl is added to the aqueous phase to pH 1-2. The mixture is extracted twice with dichloromethane, dried and evaporated.

reactant | methyl 1-methoxy-4-(N,N-dimethylaminosulfonyl)-2-napthalenecarboxylate | 7.13 mmol, 2.3 g, 1 eq | COC1=C(C=C(C2=CC=CC=C12)S(=O)(=O)N(C)C)C(=O)OC | C15H17NO5S
reactant | NaOH | 10.71 mmol, 428 mg, 1.5 eq | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methoxy-4-(N,N-dimethylaminosulfonyl)-2-naphthalenecarboxylic acid | COC1=C(C=C(C2=CC=CC=C12)S(=O)(=O)N(C)C)C(=O)O | C14H15NO5S
